US07429605B2
ii) [5-(4-Trifluoromethyl-phenyl)-pyridin-2-yl]-methanol
178 mg (4.70 mmol) lithium aluminium hydride were given to 5 ml tetrahydrofuran (THF) and stirred at room temperature (r.t.) for 20 min. A solution of 590 mg (2.35 mmol) 5-(4-trifluoromethyl-phenyl)-pyridine-2-carbaldehyde in 5 ml THF was added drop by drop within 15 min., and the mixture stirred for 3 h. 9 ml conc. sodium chloride solution was added slowly at 0° C. and stirring continued for 60 min. The mixture was adjusted to pH=5 by addition of conc. HCl. A formed salt precipitate was isolated by filtration and washed with THF. The combined THF-solutions were evaporated, the residue extracted twice with ethyl acetate, the organic phase dried (sodium sulphate), evaporated, and the obtained material (270 mg, 45%) used without further purification.

reactant | lithium aluminium hydride | 4.70 mmol, 178 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-(4-trifluoromethyl-phenyl)-pyridine-2-carbaldehyde | 2.35 mmol, 590 mg | FC(C1=CC=C(C=C1)C=1C=CC(=NC1)C=O)(F)F | C13H8F3NO
reactant | sodium chloride | 9 ml | [Cl-].[Na+]
reactant | HCl | Cl | ClH
solvent | THF | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | [5-(4-Trifluoromethyl-phenyl)-pyridin-2-yl]-methanol | FC(C1=CC=C(C=C1)C=1C=CC(=NC1)CO)(F)F | C13H10F3NO
